Name:  ___.       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin (bulk) / Ampicillin / Bactrim DS
 
Attending: ___
 
Chief Complaint:
Hyperglycemia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is ___ with history of HTN, HLD, DM2, 
schizoaffective disorder who is being sent in from PCP office 
with hyperglycemia. The patient has poorly controlled DM and, as 
per PCP, ___, and therapist notes, there has been 
concern that the patient in unable to take care of herself at 
home. As per Dr. ___ patient's psychiatrist, the patient 
has been more and more disorganized lately, and they are 
concerned that this could be due to her underlying 
schizoaffective disorder.  

The patient reports that she stopped taking her insulin since 
___ because she ran out of her needles. She has been too 
"scared" to check her sugars at home, but reports that they have 
been routinely higher than 500 over the last ___ months.  She 
was seen in the ED on ___ for high sugars.  Per follow up note 
from her PCP, she was subsequently seen at ___ and metformin 
was added to her daily regimen.  

She reports she has home nursing x3 week to help with sugars. In 
terms of precipitating factors that could be contributing to her 
hyperglycemia, she reports that she was having burning with 
urination over the weekend with increased frequency and having 
to get up at night to go to the bathroom. Has had these symptoms 
twice over the past month.  Was prescribed a course of Macrobid 
in early ___, and ___ called HCA and was prescribed cipro 
last ___.  Did not pick up cipro from pharmacy, said symptoms 
have now gone away. 

ROS is positive for dizziness, (but reports that it is much 
improved compared to previous admissions) and unintentional 
weight loss.  Per past records she weighed 189 pounds in ___ 
and is currently 153.  She also reports some pain around her 
neck ___ diagnosed neurpathy and numbness around her feet which 
has been on-going.  She denies any recent fevers or chills, 
chest pain or palpitations, shortness of breath, abdominal pain, 
changes in her BMs, early satiety or abdominal distention. She 
does not know why she has been losing weight.
  
In the ED, initial vs were: T97 160/65 88 18 96RA. Labs were 
notable for sugars >500, sodium of 126, without any anion gap. 
She was given multiple doses of IV insulin and glucose on 
transfer ~300s.  

 
Past Medical History:
PMH:
- Schizoaffective disorder
- Colon cancer - T4N0M1 (mesenteric nodules), completely 
resected ___ w/out chemo or radiation      
- DM Type 2 - poorly controlled w/ last A1c > 10
- Diabetic retinopathy
- Osteoarthritis - cervical spine, bilateral hands  
- Hypertension 
- Hypercholesterolemia
- Benign ovarian mass s/p hyserectomy and bilateral 
salpingo-oophorectomy in ___

 
Social History:
___
Family History:
Father died at ___ of an MI.
Mother died of dementia.
One brother with liver cancer, one brother with diabetes.  

 
Physical Exam:
PHYSICAL EXAM
VS: 96.7 110/56 68 18 99RA  
General: pleasant woman, NAD, sitting up comfortably at the edge 
of the bed, alert and oriented, slightly tangential, but able to 
answer my questions  
HEENT: sclera anicteric, dry mucous membranes  
neck: supple  
CV: ___ SEM heard loudest at ___, otherwise RRR S1 S2  
lungs: clear to auscultation b/l  
abdomen: soft, nontender, nondistended, +BS, no suprapubic 
tenderness noted  
back: no flank pain  
extremities: no ___ edema noted, warm and wellperfused, 2+ DP 
pulses  
Neuro: CN ___ grossly intact, intact ___ muscle strength   

PHYSICAL EXAM ON DISCHARGE:
General: pleasant woman, NAD
HEENT: sclera anicteric, dry mucous membranes  
neck: supple  
CV: ___ SEM heard loudest at RUSB, otherwise RRR S1 S2  
lungs: clear to auscultation b/l  
abdomen: soft, nontender, nondistended, +BS, no suprapubic 
tenderness noted  
back: no flank pain  
extremities: no ___ edema noted, warm and wellperfused, 2+ DP 
pulses  
Neuro: CN ___ grossly intact, intact ___ muscle strength   

 
Pertinent Results:
ADMISSION LABS
___ 04:26PM BLOOD Glucose-527* UreaN-20 Creat-0.8 Na-126* 
K-4.2 Cl-88* HCO3-28 AnGap-14
___ 04:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:58PM   GLUCOSE-295* K+-3.9

DISCHARGE LABS
___ 08:45AM BLOOD Glucose-197* UreaN-15 Creat-0.6 Na-134 
K-3.7 Cl-100 HCO3-22 AnGap-16
___ 08:45AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.7 Iron-49
___ 08:45AM BLOOD calTIBC-309 VitB12-720 Folate-19.2 
Ferritn-223* TRF-238
___ 08:45AM BLOOD %HbA1c-13.5* eAG-341*
___ 08:45AM BLOOD TSH-1.0
___ 08:45AM BLOOD WBC-8.1 RBC-4.05* Hgb-12.0 Hct-33.9* 
MCV-84 MCH-29.7 MCHC-35.5* RDW-12.5 Plt ___

FINDINGS:  The imaged lung bases are clear.  The heart and 
pericardium are unremarkable. The liver enhances homogeneously, 
and there are no focal hepatic lesions.  The gallbladder is 
normal.  The pancreas is normal.  The spleen is normal.  The 
adrenal glands are normal.  The kidneys are normal.  There is no 
hydronephrosis.  There is a tiny hiatal hernia.  Otherwise, the 
stomach is unremarkable.  The small bowel is normal.  There is 
no evidence of obstruction.  There is a large ventral hernia 
containing small and large bowel without evidence of 
obstruction.  There is suture seen in the colon, the remaining 
colon is normal.  No free air.  No free fluid.  There is no 
retroperitoneal or mesenteric lymphadenopathy. 
PELVIS:  The bladder is normal.  The rectum is normal.  The 
uterus contains dystrophic calcification from likely a 
dystrophic fibroid.  The adnexa are not well seen.  There is no 
free fluid in the pelvis.  There is no pelvic or inguinal 
lymphadenopathy. The aorta is normal in caliber, and there are 
moderate atherosclerotic 
calcifications. 
BONES:  There are moderate degenerative changes of the lower 
thoracic and lumbar spine.  There is no acute bony abnormality. 
IMPRESSION: 
1.  No evidence of metastatic disease. 
2.  Large ventral hernia containing fat, small and large bowel 
is unchanged.  No evidence of obstruction. 
3.  Tiny hiatal hernia. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with PMH significant 
for HTN, HLD, DM2, schizoaffective disorder who is being sent in 
from PCP office with hyperglycemia and inability to take care of 
herself at home. 
 
# DM2/hyperglycemia: The patient's sugars have been very 
uncontrolled, mostly in the setting of her not taking her 
insulin because she ran out of needles. However, will need to 
exclude underlying infection, as well. The patient had dysuria 
and increased frequency this past weekend, but UA from this 
admission bland, urine culture pending. Patient's home insulin 
regimen was continued with good result.  Her blood sugars 
dropped from >500 on admission to the 100's on discharge.  A 
follow up appointment was established with both ___ and ___ 
PCP to further discuss her insulin regimen and whether it can be 
simplified.  She is currently on 3 different insulins, and while 
she understands her medications accurately, it may be 
overwhelming for her.  
  
# Weight loss/failure to thrive: The patient's providers are 
concerned about weight loss. Documented to weigh 183 pounds in 
___, and down to 159 this month. She has reported significant 
barriers to getting adequate food given that there is no one 
aournd to help her and she is totally dependent on the Ride to 
get to the grocery store and the pharmacy for her medications. 
Her schizoafective disorder may also be worsening as of late per 
her last social work note, and is possibly contributing to 
disorganization and inability to care for herself.  She is also 
a little unsure about what she should eat given her diabetes, 
and frequently feels unwell, likely due to persistant 
hyperglycemia/low insulin.  However, given history of colon 
cancer as well as benign ovarian mass, we obtained a CT abdomen 
and pelvis to rule out new malignancy as an etiology for weight 
loss.  CT scan did not show obstruction or mass. Patient should 
follow up with her regular oncologist as planned going forward. 

# Schizoaffective disorder: likely contributing to weight loss, 
failure to thrive and inability to take medications reliably as 
above.  Social worker, psychiatrist and PCP all agree the 
patient would do better in assisted living.  On presentation to 
the hospital the patient was alert, oriented x3, somewhat 
tangential and distracted but easy to redirect.  She could 
answer questions apprpriately.  No depression or thoughts of 
self harm. No frank delusions or hallicinations, although she is 
somewhat preoccupied with the idea that her neighbors are 
loitering outside her apartment and trying to eavesdrop on her.  
Per conversation with PCP she ___ does not live in that 
safe of a location, and for this reason as well may do better in 
assisted living. Her home psychiatric medications were continued 
during this admission. 
 
# Hyponatremia: The patient was noted to be hyponatremia today 
to 126, but after correcting for her glucose, sodium 136.  
 
# HTN: Home atenolol and lisinopril were continued, blood 
pressure was stable. 

# HLD: Home statin was continued.  
 
TRANSITIONAL ISSUES
- Patient's safety and ability to care for herself at home is 
questionable.  Per SW, a friend is helping her look into 
assisted living facilities. 
-please ensure f/u CT scan read with oncologist and f/u 
colonscopy
-please monitor patient's weight given recent weight loss
-please ensure psychiatry f/u
-please consider toxoplasmosis screen if patient becomes acutely 
confused given history of cat litter exposure consistently
-please ensure blood glucose monitoring given persistently high 
blood sugars in 500s and poor compliance
-please ensure ___ f/u with HbA1c value of 13.5%
-please f/u iron studies with regards to patient's anemia
-please f/u TSH results
-please ensure daily ___ services continue as patient unable to 
take her own medications
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 75 mg PO DAILY 
2. Gabapentin 600 mg PO HS 
3. Lisinopril 30 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. QUEtiapine Fumarate 400 mg PO QHS 
6. QUEtiapine Fumarate 25 mg PO DAILY:PRN anxiety 
7. Rosuvastatin Calcium 20 mg PO DAILY 
8. Sertraline 200 mg PO DAILY 
9. pramipexole 0.5 mg Oral DAILY  
10. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
11. Novalog 70/30 110 Units Breakfast
12. 
13. Glargine 100 Units Bedtime Max Dose Override Reason: home 
dose per pharmacy
14. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit Oral DAILY  

 
Discharge Medications:
1. Atenolol 75 mg PO DAILY 
2. Gabapentin 600 mg PO HS 
3. Lisinopril 30 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. QUEtiapine Fumarate 400 mg PO QHS 
6. QUEtiapine Fumarate 25 mg PO DAILY:PRN anxiety 
7. Rosuvastatin Calcium 20 mg PO DAILY 
8. Sertraline 200 mg PO DAILY 
9. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit Oral DAILY  
10. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
11. pramipexole 0.5 mg ORAL DAILY  
12. U-500 115 Units Breakfast
U-500 115 Units DinnerMax Dose Override Reason: severe insulin 
resistance requires >200 units/day

RX *insulin syringe-needle U-100 [BD Insulin Syringe Ult-Fine 
II] 31 gauge x ___ use for insulin up to 22 mark twice daily 
Disp #*60 Syringe Refills:*3
RX *insulin regular hum U-500 conc [Humulin R U-500 
"Concentrated"] 500 unit/mL (Concentrated) 110 units SC twice a 
day Disp #*1 Vial Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary:Hyperglycemia

Secondary: Type II diabetes, hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure having you here at the ___ 
___.  You were admitted after you were found to have 
high blood sugars.  You were managed here with your home insulin 
regimen and intravenous fluids.  Please keep your appointments 
below
 
Followup Instructions:
___